US07956216B2
50A: Biphenyl-3-carboxylic acid 3,4-dichloro-benzylamide
Using preparation method 1, 3-phenylbenzoic acid (125 mg, 0.63 mmol) was reacted with 3,4-dichlorobenzylamine (123 mg, 0.7 mmol). The product was purified by flash chromatography on SiO2 using CH2Cl2/hexanes 50:50 then CH2Cl2 100%. White crystals were obtained (111 mg, 50%). NMR 1H (ppm, CDCl3): 8.00 (s, 1H), 7.73 (dd, J3=7.7 Hz, J4=1.6 Hz, 2H), 7.59 (d, J3=7.3 Hz, 2H), 7.50 (t, J3=7.7 Hz, 1H), 7.46-7.34 (m, 6H), 7.19 (dd, J3=8.2 Hz, J4=1.8 Hz, 1H), 6.54 (br. s, 1H), 4.61 (d, J3=5.9 Hz, 2H).

reactant | 3-phenylbenzoic acid | 0.63 mmol, 125 mg | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O2
reactant | 3,4-dichlorobenzylamine | 0.7 mmol, 123 mg | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
product | Biphenyl-3-carboxylic acid 3,4-dichloro-benzylamide | ClC=1C=C(CNC(=O)C=2C=C(C=CC2)C2=CC=CC=C2)C=CC1Cl | C20H15Cl2NO
